US06413971B1
4-(6-Chloro-2,3dihydro-indol-1-yl)-pyrido[3,4-d]pyrimidine
To a suspension of 4-hydroxy-pyrido[3,4-d]pyrimidine (0.103 g, 0.70 mmol) in dry pyridine (2 ml) cooled in an ice-water bath was added dropwise trifluoroacetic anhydride (0.20 ml, 1.4 mmol). After stirring for 0.5 hour, 6-chloroindoline (0.10 g, 0.66 mmol) and pyridine (0.14 g, 1.81 mmol) in dry DMF (1.5 ml) was added dropwise. The cold bath was allowed to warm to ambient temperature and then heated at 70° C. for 3 hours. The reaction was cooled to ambient temperature and then added to methylene chloride (150 mL). The organic layer was washed with saturated sodium carbonate and water, and then dried over sodium sulfate. The solvent was removed by rotary evaporation and the residue purified by column chromatography (silica gel, 9/2/1-CH2Cl2/hexanes/methanol) to give a pale yellow residue (0.048 g, 28%): MP: 194-6° C.; LC/MS: 283 (MH+).

reactant | 4-hydroxy-pyrido[3,4-d]pyrimidine | 0.70 mmol, 0.103 g | OC=1C2=C(N=CN1)C=NC=C2 | C7H5N3O
reactant | trifluoroacetic anhydride | 1.4 mmol, 0.20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 6-chloroindoline | 0.66 mmol, 0.10 g | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | pyridine | 1.81 mmol, 0.14 g | N1=CC=CC=C1 | C5H5N
product | 4-(6-Chloro-2,3dihydro-indol-1-yl)-pyrido[3,4-d]pyrimidine | 0.048 g, 28% | ClC1=CC=C2CCN(C2=C1)C=1C2=C(N=CN1)C=NC=C2 | C15H11ClN4
